US05905074
A solution of 4.11 g (17.1 mMol) of (1S,4aS,5S,8aR)-5-tert-Butoxy-4a-methyl-decahydro-naphtalen-1-ol and 313.6 mg (2.6 mMol) of 4-dimethylaminopyridine in 26 ml of pyridine is treated with 13 ml of acetic anhydride under stirring and argon atmosphere for two hours. The reaction mixture is poured on ice-water and extracted three times with diethylether. The combined organic layer is washed twice with water, dried over sodium sulfate and evaporated in vacuo to yield 1.26 g of crude product which is chromatographed over 60 g of silicagel with hexane/ethylacetate 9/1 to give 4.64 g (91%) of Acetic acid (1S,4aS,5S,8aR)-5-tert-butoxy-4a-methyl-decahydronaphtalen -1-yl ester as an amorphous pure product.

reactant | (1S,4aS,5S,8aR)-5-tert-Butoxy-4a-methyl-decahydro-naphtalen-1-ol | 17.1 mMol, 4.11 g | C(C)(C)(C)O[C@@H]1[C@]2(CCC[C@@H]([C@@H]2CCC1)O)C | C15H28O2
reactant | acetic anhydride | 13 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-dimethylaminopyridine | 2.6 mMol, 313.6 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 26 ml | N1=CC=CC=C1 | C5H5N
product | Acetic acid (1S,4aS,5S,8aR)-5-tert-butoxy-4a-methyl-decahydronaphtalen -1-yl ester | 4.64 g, 91% | C(C)(C)(C)O[C@@H]1[C@]2(CCC[C@@H]([C@@H]2CCC1)OC(C)=O)C | C17H30O3
